US04456757
In 100 ml of methylene chloride were added 6.0 g of piperazine and 1.2 g of anhydrous potassium carbonate, and to the mixture was added dropwise 30 ml of a methylene chloride solution containing 2.0 g of 5-isoquinolinesulfonyl chloride under cooling with ice. After the dropwise addition of the methylene chloride solution, the mixed solution was stirred at a temperature of 15° C. to 25° C. for 15 hours, and then the reaction solution was washed with water, dried with anhydrous magnesium sulfate, and the methylene chloride was distilled therefrom. The residue thus obtained was subjected to a silica gel column chromatography (silica gel: 70 g; solvent: chloroform) to give 2.14 g of 1-(5-isoquinolinesulfonyl)piperazine, i.e., Compound (35) in a yield of 89%.

reactant | piperazine | 6.0 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-isoquinolinesulfonyl chloride | 2.0 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-(5-isoquinolinesulfonyl)piperazine | 2.14 g, yield of 89% | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCNCC1 | C13H15N3O2S
